Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / Codeine
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ remote breast cancer s/p double massectomy who is 
hospitalized with 5d of abdominal pain which shifted into nausea 
and vomiting.  The patient was in her usual state of health 
until last ___ when she developed generalized non sharp 
abdominal pain, not exacerbated/relieved by anything in 
particular.  She had normal bowel movements at this time and in 
two days the pain worsened so she presented to the ED where 
imaging showed inflammatory changes in the splenic flexture 
consistent with colitis.  She was prescribed cipro/flagyl.  She 
has tolerated cipro before.  After taking her first few doses of 
flagyl she developed significant nausea and vomiting and began 
retching frequently over the next few days. She developed 
non-bloody, non-moucousy diarrhea.  She did not have fever.  She 
had less abdominal pain that was mostly an ache.  She vomited 
and saw a little bit of red and then vomited again and saw dark 
red so she came to the ED.  In the ED she received IVF and 
anti-emetic and felt a bit better.

13pt ROS negative for recent travel, hospitalization, sick 
contacts, antibiotic use and also negative for cheset pain, SOB, 
rashes, bruising or bleeding.  She describes heartburn symptoms 
and general weakness that is present
 
Past Medical History:
htn
hl
breast cancer s/p double mastectomy
radiation for acne lead to thyroid dysfunction and parathyroid 
nodules

 
Social History:
___
Family History:
not pertinent to management for acute illness 
 
Physical Exam:
.8 148/88 72 18 ___ppearing female, no acute distress
not confused
fluent speech
symmetric facial features
clear breath sounds
regular s1 and s2
slightly distended abdomen, bowel sounds present
no focal abdominal tenderness or rebound/guarding
calm and attentive
no peripheral edema
no visible rashes

discharge/e /
98.3 144/91 ___ppearing
not confused
soft non distended nontender abdomen
 

 
Pertinent Results:
___ 11:35PM BLOOD WBC-10.4* RBC-4.85 Hgb-13.6 Hct-42.3 
MCV-87 MCH-28.0 MCHC-32.2 RDW-13.1 RDWSD-41.7 Plt ___
___ 11:35PM BLOOD Glucose-166* UreaN-11 Creat-0.8 Na-137 
K-3.3 Cl-97 HCO3-25 AnGap-18

 
1. Pericolonic fat stranding adjacent to the distal transverse 
colon, splenic 
flexure, as well as of the proximal descending colon and 
thickening of the 
anterior left pararenal fascia as well as the lateral conal 
fascia.  Findings 
raise concern for colitis of the distal transverse and proximal 
descending 
colon, at the splenic flexure.  No evidence of macro perforation 
or drainable 
fluid collection.  Serum lipase was normal. 
2. No offending diverticula are seen in the area of 
inflammation, and thus 
alternative causes for colitis include infectious and 
inflammatory, however 
ischemic is not excluded given the distribution. 
  
3. 2.6 right adnexal cyst warrants a ___ year follow up pelvic 
ultrasound. 
  
RECOMMENDATION(S):  2.6 right adnexal cyst warrants a ___ year 
follow up pelvic 
ultrasound. 

 
Brief Hospital Course:
___ with nausea/vomiting in context of use of flagyl for 
suspected L sided colitis.  Her nausea/vomiting may relate to 
her colitis, though she did not have this at the outset of her 
illness.  She appears well overall without symptoms of warning 
signs such as bloody diarrhea, fever or clinically toxic/volume 
depleted appearance.  Cause of her colitis is not known at this 
time but favor infection given acute onset vs. ischemic but no 
precipitants for diminished blood flow to gut.

#Nausea/Vomitting
#Blood tinged vomit: possible ___ tear, clinically 
stable
#Colitis
--stopped flagyl
She will continue cipro for 3 additional days on discharge.  She 
was not orthstatic and tolerated a regular bland diet.  SHe did 
not have diarrhea so no stool culture sent.  She did not vomit 
and had no abdominal pain on discharge.

#HTN: 
--continued ace-I
#Hypothyroid
--continued levothyroxine
#HL
--continued statin, aspirin

#Incidental adnexal cyst
--Informed patient and gave her copy of CT report.
RECOMMENDATION(S):  2.6 right adnexal cyst warrants a ___ year 
follow up pelvic 
ultrasound. 

full code
low dvt risk

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
colitis NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for evaluation of colitis.  also we felt 
that your nausea was related to use of flagyl.

take the antibiotic cipro for the next 3 days.

if you develop fever, severe abdominal pain, bloody diarrhea 
please let your doctor know right away

take vitamins that you were taking previously
 
Followup Instructions:
___